Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ hx of anemia and thrombocytosis use who presents for
abdominal pain, found to have persistent thrombocytosis and
imaging revealing for portal vein thrombosis.

On day of admission the pt developed generalized intermittent
abdominal pain. The pain was described as sharp, non radiating,
and ___ in intensity. She also noted heavy vaginal bleeding 
with
clots, which in combination with her abdominal symptoms, 
prompted
her to present to ___.

At ___, the pt's labs were notable for anemia and
thrombocytosis. Pregnancy test was negative. A CT scan was done
which revealed partial intrahepatic portal vein thrombosis. She
was started on a heparin drip and transferred to ___ for
further work up and management.

Of note, the pt was seen in OSH in ___ for chest pain.
At that time, she was noted to have a plt count of 699 and an
elevated Ddimer. Subsequent CTA was negative for PE and the pt
was discharged with plans to see her PCP, however was lost to
follow up. She also was told in the past that she had abnormal
liver enzymes, however the details of this are not clear. LFTs
were wnl at her ___ ED visit.

In the ED, initial vitals were T 98.7, HR 86, BP 124/65, RR 18,
O2 100% on RA.

Exam was notable for minimally tender abdomen without rebound or
guarding.

Labs were significant for:
- WBC 10.4, Hbg 9.9 (MCV 73), Plts 593
- ___ 12.9, PTT 82.8, INR 1.2

Patient was given IV Zofran and continued on heparin gtt.

On arrival to the floor, the pt endorsed the above history,
adding that her abdominal pain and vaginal bleeding started
abruptly on the morning prior to admission. She says she is 
about
7 days late for her period, which is usually fairly regular. She
takes an oral contraceptive pill, however admits that she is
inconsistent with use. Also endorses about 1 week of nausea and
vomiting and 22 lb unintentional weight loss over the course of
about 5 months. 

The pt otherwise denies fevers, chills, chest pain, SOB, 
dysuria,
frequency. She has no personal history of blood clots or
miscarriages. No known family history of blood clots, but she
thinks her mother may have had a miscarriage in the past.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise 10-point review of systems was negative.

 
Past Medical History:
Anemia
Thrombocytosis
 
Social History:
___
Family History:
No known family history of blood clots or hematologic disorders.
 
Physical Exam:
ADMISSION:
==========
VITALS: T 98.3, BP 108/75, HR 72, O298% on RA
GENERAL: Alert and interactive, NAD
CARDIAC: RRR, no m/r/g
LUNGS: CTAB, no wheezes or crackles
ABDOMEN: Soft, non distended, slightly tender to deep palpation,
no rebound or guarding
EXTREMITIES: No cyanosis or edema
SKIN: No rashes
NEUROLOGIC: AOx3, CNII-XII grossly intact, moving all 
extremities

DISCHARGE:
==========
VITALS: 24 HR Data (last updated ___ @ 2346)
    Temp: 98.3 (Tm 98.9), BP: 94/61 (94-104/52-71), HR: 62
(62-89), RR: 16 (___), O2 sat: 100% (98-100), O2 delivery: Ra  


GENERAL: Well-appearing young woman in no acute distress, seated
comfortably on bed.
HEENT: Sclerae anicteric. MMM.
CARDIAC: Normal rate and rhythm. Normal S1 and S2. No murmurs,
rubs, or gallops appreciated.
LUNGS: Clear to auscultation bilaterally, without wheezes,
crackles, or rhonchi. No increased work of breathing.
ABDOMEN: NABS. Soft, non distended. Mildly tender to palpation 
in
RUQ and epigastric region. No hepatosplenomegaly. 
EXTREMITIES: No cyanosis or edema, warm and well perfused. 
SKIN: No rashes
NEUROLOGIC: AOx3, CNII-XII grossly intact, moving all 
extremities
equally antigravity.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 10:48PM BLOOD WBC-10.4* RBC-4.58 Hgb-9.9* Hct-33.2* 
MCV-73* MCH-21.6* MCHC-29.8* RDW-18.0* RDWSD-46.0 Plt ___
___ 10:48PM BLOOD ___ PTT-82.8* ___
___ 10:48PM BLOOD Glucose-91 UreaN-7 Creat-0.9 Na-141 K-3.9 
Cl-107 HCO3-20* AnGap-14

PERTINENT LABS:
===============

___ 06:46AM BLOOD calTIBC-480* Ferritn-6.8* TRF-369*
___ 06:46AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HAV-NEG
___ 06:46AM BLOOD TotProt-6.5 Albumin-3.4* Globuln-3.1 
Calcium-8.7 Phos-4.4 Mg-2.0 Iron-19*
___ 06:46AM BLOOD Smooth-NEGATIVE
___ 06:46AM BLOOD ___ CRP-6.0*
___ 06:46AM BLOOD PEP-BASED ON I ___ Fr 
K/L-1.3 IgG-1046 IgA-224 IFE-NO MONOCLO
___ 06:46AM BLOOD tTG-IgA-3
___ 06:46AM BLOOD HCV Ab-NEG
___ 06:46AM BLOOD JAK2 EXON 12-PND

DISCHARGE LABS:
===============

___ 07:48AM BLOOD WBC-6.7 RBC-4.71 Hgb-10.2* Hct-34.6 
MCV-74* MCH-21.7* MCHC-29.5* RDW-18.1* RDWSD-46.4* Plt ___
___ 07:48AM BLOOD Plt ___
___ 07:48AM BLOOD Glucose-88 UreaN-6 Creat-0.9 Na-140 K-3.8 
Cl-106 HCO3-25 AnGap-9*
___ 07:48AM BLOOD ALT-31 AST-26 AlkPhos-63 TotBili-<0.2

IMAGING/STUDIES:
================
SECOND OPINION CT A/P ___
FINDINGS:  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN:   
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits. 
  
VASCULAR: There is portal venous occlusion in the segment 4A and 
4B branches, as well as in the right anterior portal vein and 
segment 5 and 8 branches. Main, left and right portal veins, 
hepatic veins and SMV are widely patent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout. There are multiple small outpouchings 
from the colon, particularly distally, that likely represent 
diverticuli.  There is no evidence of acute inflammatory 
process. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus and bilateral adnexae are within 
normal 
limits. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
Portal venous occlusion involving segments 4A, 4B, 5 and 8 as 
described. 
  
Please note, study was performed at an outside hospital on ___ and 
submitted for second opinion interpretation on ___. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with prior history of anemia and 
thrombocytosis, on combined oral contraceptives, who presented 
with 1 day of acute abdominal pain and was found to have portal 
vein thrombosis on imaging.

ACUTE/ACTIVE ISSUES:
====================
#Portal vein thrombosis
Pt presented with severe, diffuse abdominal pain, CT A/P 
demonstrated intrahepatic portal vein thrombosis which is 
confirmed on second read here. Most likely etiology is possible 
hypercoagulable state related to OCP use. LFTs within normal 
limits at discharge, further workup including ___, anti-smooth 
muscle antibody, Ttg-IgA, hepatitis serologies, ___ were 
unremarkable. Of note, she had a hypercoagulable workup sent 
from ___ which is still pending at the time of 
discharge. ___ was consulted, at this time no plan for 
interventional therapy as thrombus is primarily intrahepatic. 
She was started on heparin drip and transitioned to rivaroxaban 
on ___ per hematology recommendations. Plan for rivaroxaban 
15mg x 3 weeks followed by rivaroxaban 20mg daily afterward. She 
likely will need long-term AC for ___ mo duration, to be 
determined by outpatient hematology. Refills of the rivaroxaban 
were sent to her Walgreens.  She was counseled on stopping her 
OCP and using barrier protection until she follows up with her 
GYN for alternate birth control options. She was counseled on 
side effects of Xarleto including bleeding or bruising, and to 
seek medical care if this develops. She has a history of 
menorrhagia and will need close follow up with her GYN for this 
now that she is on anticoagulation. She was advised to avoid 
NSAIDs while on anticoagulation and to use Tylenol as need for 
pain, which she understands. 

#Thrombocytosis
Labs notable for marked elevated platelets that have been 
elevated since at least ___. Hematology was consulted, felt 
to be most likely reactive thrombocytosis in the setting of iron 
deficiency anemia. Anti-cardiolipin, factor V leiden, and C4 
were still pending from ___. Outpatient hematology 
will determine if she requires further hypercoagulable workup 
once off systemic anticoagulation.

#Iron deficiency anemia
Patient reports longstanding anemia for many years. H/H stable 
since ___ at OSH. Iron studies consistent with ___, likely 
secondary to menorrhagia. No other obvious overt bleed, no 
evidence of hemolysis. s/p IV ferrous gluconate x1 on ___ and 
transitioned to PO iron on ___. She should continue iron 
supplementation every other day. Consider gyn follow-up for 
menorrhagia.

#Abdominal pain: Likely initially attributable to her PVT which 
improved. On the day 
of discharge, she again endorsed some mild abdominal pain which 
she said felt different than her initial pain. She had been 
significantly constipated throughout admission, and the addition 
of iron supplementation may have contributed to this as well. 
With an aggressive bowel regimen, she had a BM with resolution 
of the discomfort on the day of discharge. She was discharged to 
continue a bowel regimen at home. 

# Diverticulosis: ___ read commented on "multiple small 
outpouchings from the colon, particularly distally, that likely 
represent diverticuli" which should be noted going forward by 
her outpatient providers.

CHRONIC/STABLE ISSUES:
======================
#Contraception
Pt previously on OCP, however now contraindicated given presence 
of clot. Patient is aware that she cannot use any 
estrogen-containing contraception and is planning on using 
condoms for future contraception until she follows up with her 
GYN for further recommendations.

TRANSITIONAL ISSUES:
====================
NEW MEDICATIONS:
-- Rivaroxaban 15mg BID for 3 weeks ___ - ___
 --- Then rivaroxaban 20mg daily
-- Ferrous sulfate 325mg every other day
-- Bowel regimen: Senna twice daily PRN and miralax daily

STOPPED MEDICATIONS
- Oral contraceptive

[] Follow-up on remaining hypercoagulable workup such as: 
-- Anti-cardiolipin, factor V leiden, and C4, factor studies 
pending from ___
-- Jak2 is still pending from ___
[] Follow-up on remaining liver workup such as: ___
[] Follow-up with outpatient hematology, to determine 
anticoagulation course and further thrombophilia workup
[] Encourage regular bowel movements
[] Consider gyn follow-up for menorrhagia, alternative 
non-estrogen contraceptive methods
[] Patient instructed to avoid NSAIDs while on systemic 
anticoagulation. Can take Tylenol for pain.

On the day of discharge, her abdominal discomfort and 
constipation have improved with BM in the afternoon after 
initiation of bowel regimen. Appetite overall improved. She 
denies CP, SOB, N/V. A comprehensive 10 point ROS was obtained 
and otherwise negative.

>30 minutes were spent in discharge related activities.
 
Medications on Admission:
Oral contraceptive
 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 (One) tablet(s) by 
mouth every other day Disp #*30 Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 17 gram 1 packet(s) by mouth Daily 
as needed Disp #*30 Packet Refills:*0 
3.  Rivaroxaban 15 mg PO/NG BID Duration: 3 Weeks 
This is your three week loading dose 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 
4.  Rivaroxaban 20 mg PO DAILY 
After completing 3 week loading dose 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*9 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg 1 tablet(s) by mouth Twice daily as needed 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Portal vein thrombosis

SECONDARY DIAGNOSES:
-Iron deficiency anemia
-Thrombocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

Thank you for coming to ___!

Why were you admitted?
- You were transferred to our hospital because of abdominal 
pain. A CT scan showed a clot in your liver, also known as 
"portal vein thrombosis."

What happened while you were in the hospital?
- Our radiologists looked at the CT images and agreed that there 
was a clot
- You were started on IV blood thinner (heparin). After one day, 
you were transitioned to an oral blood thinner (rivaroxaban)
- Our hematology (blood) doctors ___ and recommended 
that you follow up with an outpatient hematologist near home.
- You were started on iron, because you are very anemic.
- You had abdominal pain prior to leaving the hospital, but this 
improved with a bowel movement.

What should you do when you leave the hospital?
- You should continue to take your blood thinner as prescribed. 
It should be taken twice daily (15mg) for 3 weeks and then once 
daily (20mg) afterward. We have given you a starter pack and 
sent refills to your Walgreens.
- It is important that you do not take any oral contraceptives 
due to the risk of clot. For contraception, consider using 
condoms in the interim. Eventually you may be able to consider 
other forms of birth control, but it is important for you to 
avoid estrogen-containing products.
- We also recommend avoiding nicotine-containing products (which 
can increase your risk of clot) and alcohol (which can worsen 
bleeding and hurt your liver).
- You should continue to take iron tablets every other day to 
treat your anemia. One of the side effects of iron tablets is 
black stools. It can also cause constipation and pain in your 
abdomen, so we have provided you two prescriptions for 
medications (senna and miralax) which you should take to prevent 
constipation. These are also often available over the counter. 
If you do not have a bowel movement for two to three days or if 
you have abdominal pain, please talk to your doctor or consider 
using a suppository or enema.
- Watch out for any bleeding or bruising while on this blood 
thinner. If you notice any significant bleeding, please tell 
your doctor.
- Please talk to your doctor about seeing a gynecologist for 
your heavy periods.
- If you have pain, DO NOT TAKE ANY NSAIDS (Such as naproxen, 
ibuprofen, aleve, and advil). Please only use Tylenol for pain. 
- You should follow up with hematology near your home. They will 
help determine if you need to continue to take blood thinners 
and to see if you need further tests. 

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___